US07981903B2
To a solution of D-proline (30 g, 260.7 mmol, 1 eq) and 37% aqueous formaldehyde (80.5 mL, 782 mmol, 3eq) in H2O (900 mL) was added 10% Pd/C (30 g) under N2. The mixture was stirred at 50° C. under H2 (30 psi) overnight. The mixture was heated to boiling and filtered to remove the catalyst. The solution was concentrated under reduced pressure, and then water (150 mL) was added to the mixture and concentrated, the procedure was repeated three times so as to remove unreacted formaldehyde. The crude product was resuspended in ACN/H2O (1:1, v/v) and lyophilized. The solid product was recrystallized from EtOH/acetone, filtered, liberally washed with acetone, and dried under reduced pressure to give 1-methyl-D-proline (12.3 g, 40%) as white solid. 1H NMR (400 MHz, MeOHD) δ ppm 1.95-1.99 (s, 1H), 2.1-2.2(s, 2H), 2.4-2.5 (m, 1H), 3.05-3.15(m,1H),3.3-3.35(s,1H),3.65-3.75(m, 1H),3.75-3.85(m,1H).

reactant | D-proline | 260.7 mmol, 30 g, 1 eq | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | formaldehyde | 782 mmol, 80.5 mL, 3eq | C=O | CH2O
solvent | H2O | 900 mL | O | H2O
catalyst | Pd/C | 30 g | [Pd] | Pd
product | 1-methyl-D-proline | 12.3 g, 40% | CN1[C@@H](C(=O)O)CCC1 | C6H11NO2
